Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GIB
 
Major Surgical or Invasive Procedure:
EGD/colonoscopy (___)
 
History of Present Illness:
___ w h/o HTN, HLD p/w generalized weakness, BRBPR starting 
___.

He has had multiple colonoscopies w polypectomies over the past 
6
months, most recently ___. He did not have any bleeding
post-procedurally. Morning of ___ he had a large BM w BRBPR. He
does not describe melena. While in ED he again had large BM w
BRBPR. Following stooling he had a syncopal event w head strike.
BPs following event 54/41, given IVF and 1U prbcs w recovery of
his BPs. Small lac on forehead. NCHCT was negative. Initially 
Hgb
13 -> 11. After 1U prbcs, did not bump. Last BM 1400. He saw 
some
very dark stool unsure if black or brown. He was transferred to
___ for monitoring and possible need for emergent scope should
he have further bleeding.

 
Past Medical History:
HTN
HLD
Polyps s/p polypectomy

 
Social History:
___
Family History:
Reviewed and NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: Reviewed in Metavision
GEN:  NAD
HEENT:  OP clear, PERRL, EOMI
NECK:  JVP not elevated
CV:  RRR, no m/r/g
RESP:  CTAB, no inc WOB
GI:  SNTND, NABS
MSK:  No peripheral edema
SKIN:  no rashes, wwp
NEURO:  CN grossly intact, moving all extr spontaneously
PSYCH:  nl affect

DISCHARGE PHYSICAL EXAM:  
========================  
VS: t 98.0  bp131/84   hr77  rr18   o2sat98 Ra 
GEN:  NAD
HEENT:  OP clear, PERRL, EOMI
NECK:  JVP not elevated
CV:  RRR, no m/r/g
RESP:  CTAB, no inc WOB
GI:  SNTND, NABS
MSK:  No peripheral edema
SKIN:  no rashes, wwp
NEURO:  CN grossly intact, moving all extr spontaneously
PSYCH:  nl affect

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:45PM BLOOD WBC-7.9 RBC-3.39* Hgb-10.1* Hct-30.6* 
MCV-90 MCH-29.8 MCHC-33.0 RDW-13.9 RDWSD-45.8 Plt ___
___ 10:45PM BLOOD Glucose-114* UreaN-15 Creat-1.0 Na-139 
K-3.9 Cl-110* HCO3-23 AnGap-6*
___ 10:45PM BLOOD ALT-13 AST-15 AlkPhos-65 TotBili-1.4
___ 10:45PM BLOOD cTropnT-<0.01
___ 10:45PM BLOOD Albumin-3.4* Calcium-8.2* Phos-3.0 Mg-1.7
___ 10:59PM BLOOD ___ Temp-37.4 pO2-30* pCO2-40 
pH-7.39 calTCO2-25 Base XS--1
___ 10:59PM BLOOD Glucose-103 Lactate-1.5

COLONOSCOPY ___: 
10mm ulcer was seen in the ascending colon immediately proximal 
to a tattoo. No active bleeding was seen. This was the likely 
source of his initial bleeding; it was clipped. 
 
Otherwise normal colonoscopy including 10cm of terminal ileum. 
No fresh or old blood visualized. Colonoscopy was not adequate 
for screening purpose. 

DISCHARGE LABS:
===============
___ 06:32AM BLOOD WBC-8.6 RBC-3.43* Hgb-10.4* Hct-32.0* 
MCV-93 MCH-30.3 MCHC-32.5 RDW-14.1 RDWSD-48.0* Plt ___
___ 06:32AM BLOOD Calcium-9.1 Phos-2.7 Mg-2.2
___ 06:32AM BLOOD Glucose-96 UreaN-13 Creat-1.2 Na-144 
K-3.8 Cl-108 HCO3-21* AnGap-15
 
Brief Hospital Course:
Mr. ___ us a ___ year old man h/o multiple polypectomies, 
hypertension, hyperlipidemia p/w generalized weakness, caused by 
a LGIB in the setting of a recent colonoscopy s/p polypectomy. 
He received a colonoscopy in the hospital. 

ACUTE ISSUES 
=============== 
#Acute GI Bleed
Given his history of recent colonoscopy with polypectomy, a 
lower GI bleed was suspected. He received 1 u PRBCs at ___ 
prior to transfer to ___. Initially he was admitted to ICU at 
___ where CBC was monitored every four hours and 
remained stable. He did not require additional blood products 
and he was started on IV PPI. Because he remained stable, he was 
transferred to the floor. GI was consulted who recommended 
colonoscopy ___ which showed an ulcer at the site of the most 
recent polypectomy on ___. A ulcer was seen, determined it was 
not actively bleeding at this time and was clipped. An EGD was 
not performed given low suspicion for upper GI bleed. IV PPI was 
discontinued. Of note, baby aspirin was held given his risk of 
bleeding. Patient was advised to hold aspirin until his PCP 
___ appointment. He was able to tolerate liquids on 
discharge. A repeat CBC was not performed after CBC given 
patient declined, but discharge Hgb was 10.4 on the morning of 
___. Recommend a repeat CBC at ___ PCP ___. Of 
note, a H. Pylori IgG was sent during hospitalization and should 
be followed up. 

CHRONIC ISSUES 
=============== 
#Primary prevention
His ASA was held given his current acute GI bleed. It was deemed 
that his bleeding risk outweighs benefit from primary prevention 
at his age. Recommended discussing aspirin indication as 
outpatient.

#HLD
His home simvastatin was continued 

TRANSITIONAL ISSUES:
====================
[] PCP to follow up on primary prevention: patient stopped on 
aspirin and advised to discuss with PCP.
[] Outpatient GI to f/u on future colonoscopies 
[] PCP or outpatient GI to follow up on H.pylori IgG

# CODE: Full, presumed
# CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Simvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
2.  Simvastatin 20 mg PO QPM  
3. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you follow up with your primary care 
doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
====================
Acute Gastrointestinal Bleed

Secondary Diagnosis: 
=====================
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
You were having blood in your stool, and you lost consciousness 
due to the blood loss. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given a unit of blood to maintain your blood pressure 

- Your blood pressures and heart rates were stabilized in ICU at 
___ and ___ and you were then transferred to the general 
medicine floor. 
- You had a colonoscopy, where an ulcer that is suspected to be 
the source of your bleeding was clipped. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and ___ 
with your appointments as listed below.
- You declined to stay for a repeat blood count after the 
colonoscopy, but your blood levels were very stable during your 
hospital stay.
- If you feel dizzy or lightheaded, if you notice increased 
quantity of blood or increased frequency of bloody stools, or if 
you develop any chest pain or shortness of breath, please 
present to your closest ED or call your PCP.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___